US07318991B2
Synthesis of diphenyl(7-chlorothioxanthene-9-one-2-yl)sulfonium hexafluorophosphate
To 320 ml of dichloromethane were suspended 20.2 g (0.1 mol) of diphenylsulfoxide and 24.6 g (0.1 mol) of 2-chlorothioxanthene-9-one, and 28.2 g (0.1 mol) of trifluoromethanesulfonic anhydride was added dropwise thereto at −70 to −60° C., followed by gradually warming to room temperature and reacting with stirring for 3 hours. After completion of the reaction, the obtained reaction solution was washed with water (320 ml×5 times) and 18.4 g (0.1 mol) of potassium hexafluorophosphate and 200 ml of water were added to the obtained dichloromethane layer, followed by stirring at room temperature for 2 hours and fractionating the solution. Then, 9.2 g (0.05 mol) of potassium hexafluorophosphate and 100 ml of water were further added to the obtained dichloromethane layer, followed by stirring at room temperature for 2 hours and fractionating the solution. Then the obtained dichloromethane layer was washed with 200 ml of water and concentrated to dryness under reduced pressure. The obtained crude product was purified by column chromatography to obtain 4.0 g of objective substance as pale yellow glassy substance (yield: 7%).

reactant | diphenylsulfoxide | 0.1 mol, 20.2 g | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | 2-chlorothioxanthene-9-one | 0.1 mol, 24.6 g | ClC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H7ClOS
reactant | trifluoromethanesulfonic anhydride | 0.1 mol, 28.2 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | potassium hexafluorophosphate | 0.1 mol, 18.4 g | F[P-](F)(F)(F)(F)F.[K+]
reactant | potassium hexafluorophosphate | 0.05 mol, 9.2 g | F[P-](F)(F)(F)(F)F.[K+]
solvent | water | 320 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 320 ml | ClCCl | CH2Cl2
product | diphenyl(7-chlorothioxanthene-9-one-2-yl)sulfonium hexafluorophosphate | yield: 7% | F[P-](F)(F)(F)(F)F.C1(=CC=CC=C1)[S+](C1=CC=2C(C3=CC(=CC=C3SC2C=C1)Cl)=O)C1=CC=CC=C1 | InChI=1S/C25H16ClOS2.F6P/c26-17-11-13-23-21(15-17)25(27)22-16-20(12-14-24(22)28-23)29(18-7-3-1-4-8-18)19-9-5-2-6-10-19;1-7(2,3,4,5)6/h1-16H;/q+1;-1
